US07550495B2
Step E: Methyl [2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]carbamate
Methyl {3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate (2.29 g, 8.20 mmol) and DMAP (0.20 g, 1.64 mmol) were dissolved in 75 mL of DCM. Trimethylacetyl chloride (1.10 mL, 9.02 mmol) was added dropwise and the solution was stirred at rt for 2 h. The solution was washed with aqueous NaHCO3 solution, brine and dried over anhydrous MgSO4. The residue was dissolved in 25 mL of AcOH and was heated at 125° C. for 1 h using a Personal Chemistry microwave apparatus. The solvent was evaporated. The residue was dissolved in EtOAc and washed with aqueous NaHCO3 solution, brine and dried over anhydrous MgSO4. The crude product was purified by silica gel flash chromatography using 4:3/hexanes: acetone as eluent. Yield: 1.81 g (64%). 1H NMR (400 MHz, CHLOROFORM-D) δ 1.48-1.54 (m, 4 H), 1.56 (s, 9 H), 2.23-2.35 (m, 1 H), 3.27-3.35 (m, 2 H), 3.78 (s, 3 H), 3.96 (t, J=2.93 Hz, 1 H), 3.99 (t, J=3.03 Hz, 1 H), 4.18 (d, J=7.42 Hz, 2 H), 6.63 (br.s, 1 H), 7.24-7.28 (m, 1 H), 7.41 (br.s, 1 H), 7.61 (d, J=1.95 Hz, 1 H).

reactant | Methyl {3-amino-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}carbamate | 8.20 mmol, 2.29 g | NC=1C=C(C=CC1NCC1CCOCC1)NC(OC)=O | C14H21N3O3
reactant | Trimethylacetyl chloride | 9.02 mmol, 1.10 mL | CC(C(=O)Cl)(C)C | C5H9ClO
catalyst | DMAP | 1.64 mmol, 0.20 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | Methyl [2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]carbamate | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)NC(OC)=O | C19H27N3O3
